US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-1H-pyrazol-3-ylbenzamide
A suspension of 4-{3-[(1S)-2-hydroxy-1-methylethoxy]-5-[(1H-pyrazol-3-ylamino)carbonyl]phenoxy}benzoic acid (130 mg, 0.327 mmol), HATU (156 mg, 0.41 mmol), azetidine hydrochloride (38 mg, 0.41 mmol) and DIPEA (0.143 mL; 0.82 mmol) in DMF (2 mL) was stirred at ambient temperature for 16 hours. Water was added to the reaction mixture and it was extracted into ethyl acetate (3×30 mL). The organic phases were combined, washed with brine solution and dried (MgSO4). The filtrate was concentrated in vacuo and the residue chromatographed, eluting with 0-50% methanol in DCM, to give a clear oil which gave a foam under high vacuum (65 mg, 46%).

reactant | 4-{3-[(1S)-2-hydroxy-1-methylethoxy]-5-[(1H-pyrazol-3-ylamino)carbonyl]phenoxy}benzoic acid | 0.327 mmol, 130 mg | OC[C@@H](OC=1C=C(OC2=CC=C(C(=O)O)C=C2)C=C(C1)C(=O)NC1=NNC=C1)C | C20H19N3O6
reactant | HATU | 0.41 mmol, 156 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | azetidine hydrochloride | 0.41 mmol, 38 mg | Cl.N1CCC1
reactant | DIPEA | 0.82 mmol, 0.143 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-1H-pyrazol-3-ylbenzamide | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NNC=C3)C=C(C2)O[C@H](CO)C)C=C1 | C23H24N4O5
